US05480572
236faE (CAS Reg. No. 20193-67-3) has been prepared by reaction of 2,2,2-trifluoroethanol with carbonyl fluoride to give the intermediate, CF3CH2OCOF, which was in turn reacted with sulfur tetrafluoride at 150°-200° C. to give the product as disclosed by Eisemann in U.S. Pat. No. 3,394,878.

reactant | 2,2,2-trifluoroethanol | FC(CO)(F)F | C2H3F3O
reactant | carbonyl fluoride | C(=O)(F)F | CF2O
product | CF3CH2OCOF | C(F)(F)(F)COC(=O)F | C3H2F4O2
